US05798377
Step A: Preparation of Boc-D-cyclohexylglycine-proline methyl ester (26-1)
A solution of 8.0 g (31.0 mmol)of Boc-D-cyclohexylglycine and 5.8 g (35 mmol) of proline methyl ester HCl salt in 100 ml of anh. DMF, mixed with 5.8 g (37.2 mmol) of HOBt with the pH adjusted to 7-8 with N-methylmorpholine (to moistened narrow-range pH paper), was treated with 7.9 g (40.3 mmol) of EDC and stirred for 18 hr in a nitrogen atmosphere. After 20 hr water (10 ml) was added, the solution concentrated in vacuo and partitioned with 400 ml EtOAc and 200 ml H2O, washing with dil. NaHCO3, H2O, dil. KHSO4, and twice with 50% satd NaCl, dried over Na2SO4 and concentrated under reduced pressure to give an oil. This crude material was chromatographed on 300 g silica gel in 1:1 (v/v) EtOAc/hexane to afford, after pooling of fractions, intermediary 26-1.

reactant | Boc-D-cyclohexylglycine | 31.0 mmol, 8.0 g | CC(C)(C)OC(=O)N[C@H](C1CCCCC1)C(=O)O | C13H23NO4
reactant | proline methyl ester HCl salt | 35 mmol, 5.8 g | Cl.COC([C@H]1NCCC1)=O
reactant | HOBt | 37.2 mmol, 5.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | EDC | 40.3 mmol, 7.9 g
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | Boc-D-cyclohexylglycine proline methyl ester | CC(C)(C)OC(=O)N[C@H](C1CCCCC1)C(=O)O.COC([C@H]1NCCC1)=O | InChI=1S/C13H23NO4.C6H11NO2/c1-13(2,3)18-12(17)14-10(11(15)16)9-7-5-4-6-8-9;1-9-6(8)5-3-2-4-7-5/h9-10H,4-8H2,1-3H3,(H,14,17)(H,15,16);5,7H,2-4H2,1H3/t10-;5-/m10/s1
